US04355037
To a suspension of 7.6 g of magnesium turnings in 25 ml of tetrahydrofuran was added a few drops of ethyl bromide, with stirring under nitrogen. After the reaction began, approximately 50.0 g of N-methyl-4-chloropiperidine in 125 ml of tetrahydrofuran was added dropwise at a rate such as to maintain moderate reflux. The reaction mixture was heated under reflux an additional hr, and 37.2 g of 2-fluorobenzonitrile in 50 ml of tetrahydrofuran was added dropwise. After completion of the addition, the reaction mixture was refluxed for two hrs, and stirred overnight at room temperature. The reaction mixture was poured into a solution of 85 g of ammonium chloride in 1200 ml of ice water and heated on a steam bath for 3 hrs. The mixture was cooled, extracted with benzene (3×250 ml), dried over anhydrous sodium sulfate, and the excess solvent was removed under reduced pressure to give 62.72 g (91%) of 4-(2-fluorobenzoyl)-1-methyl piperidine as an oil. A small amount of 4-(2-fluorobenzoyl)-1-methyl piperidine (1.0 g) was removed, dissolved in ether and a solution of ethereal hydrochloric acid was added. The precipitate was collected, dried and recrystallized from ethanol-ether (2×) to give 0.5 g of 4-(2-fluorobenzoyl)-1-methylpiperidine hydrochloride, mp, 167°-169°.

reactant | magnesium | 7.6 g | [Mg] | Mg
reactant | N-methyl-4-chloropiperidine | approximately 50.0 g | CN1CCC(CC1)Cl | C6H12ClN
reactant | 2-fluorobenzonitrile | 37.2 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | ammonium chloride | 85 g | [Cl-].[NH4+]
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | ethyl bromide | a few drops | C(C)Br | C2H5Br
product | 4-(2-fluorobenzoyl)-1-methyl piperidine | 62.72 g, 91% | FC1=C(C(=O)C2CCN(CC2)C)C=CC=C1 | C13H16FNO
